US04703054
2,2-Dimethyl-1-[2-(2-oxo-1-pyrrolidineacetamido)propionyl]4-imidazolidinone
The same procedure of Example 25, starting from ethyl 2-oxo-1-pyrrolidineacetate and 1-(D,L-alanyl)-2,2-dimethyl-4-imidazolidinone, afforded the title compound, m.p. 198°-200° C. (2-propanol).

reactant | ethyl 2-oxo-1-pyrrolidineacetate | O=C1N(CCC1)CC(=O)OCC | C8H13NO3
reactant | 1-(D,L-alanyl)-2,2-dimethyl-4-imidazolidinone | NC(C)C(=O)N1C(NC(C1)=O)(C)C | C8H15N3O2
solvent | 2-propanol | CC(C)O | C3H8O
product | 2,2-Dimethyl-1-[2-(2-oxo-1-pyrrolidineacetamido)propionyl]4-imidazolidinone | CC1(N(CC(N1)=O)C(C(C)NC(CN1C(CCC1)=O)=O)=O)C | C14H22N4O4
